US06630600B1
4-Benzyloxy-3-methoxybenzaldehyde (7 g; 28.8 mmole) and (1,2-diethoxy-2-oxoethyl) (triphenyl)phosphonium chloride (13.6 g; 31 mmole) was dissolved in isopropanol and the reaction mixture was cooled to −10° C. Potassium carbonate (6 g; 43 mmole) was added. The resulting mixture was stirred over night and the temperature was allowed to reach room temperature. The reaction mixture was filtered and the filtrate was evaporated. Diethyl ether was added to the residue and the resulting mixture was stirred for a while and then insoluble material was filtered off. The filtrate was washed with potassium hydrogensulfate solution and water, dried with magnesium sulfate and evaporated. Isopropylether was added to the residue. Triphenylphosphine oxide precipitated and was filtered off and the filtrate was evaporated. Chromatography of the residue on silica gel using toluene with ethyl acetate (0, 1%, 3%) as eluant gave 5.2 g of 3-(4-benzyloxy-3-methoxyphenyl)-2-ethoxyacrylic acid ethyl ester. Since the product was not pure enough it was stirred with petroleum ether, insoluble material was filtered off and the filtrate was evaporated to give 4 g (38% yield) of pure 3-(4-benzyloxy-3-methoxyphenyl)-2-ethoxyacrylic acid ethyl ester.

reactant | 4-Benzyloxy-3-methoxybenzaldehyde | 28.8 mmole, 7 g | C(C1=CC=CC=C1)OC1=C(C=C(C=O)C=C1)OC | C15H14O3
reactant | (1,2-diethoxy-2-oxoethyl) (triphenyl)phosphonium chloride | 31 mmole, 13.6 g | [Cl-].C(C)OC(C(=O)OCC)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | Potassium carbonate | 43 mmole, 6 g | C([O-])([O-])=O.[K+].[K+]
solvent | isopropanol | C(C)(C)O | C3H8O
product | 3-(4-benzyloxy-3-methoxyphenyl)-2-ethoxyacrylic acid ethyl ester | 5.2 g | C(C)OC(C(=CC1=CC(=C(C=C1)OCC1=CC=CC=C1)OC)OCC)=O | C21H24O5
